US06310243B1
a. 2,3,4-Triacetoxybutanoyl bromide
2,3,4-Triacetoxybutanoyl chloride (39.9 g, 0.142 mol), prepared according to the literature procedure Glattfeld, J. and Kribben, B., J.Am. Chem. Soc. 61 (1939) 1720) was mixed with lithium bromide (30.9 g, 0.356 mol) in methylene chloride (400 ml) and stirred at ambient temperature for 24 h. The mixture was filtered, the solid was washed with additional methylene chloride (50 ml) and the filtrate was evaporated at ambient temperature to give 45 g (97%) of the crude product as an oil.

reactant | 2,3,4-Triacetoxybutanoyl chloride | 0.142 mol, 39.9 g | C(C)(=O)OC(C(=O)Cl)C(COC(C)=O)OC(C)=O | C10H13ClO7
reactant | lithium bromide | 0.356 mol, 30.9 g | [Br-].[Li+]
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
product | 2,3,4-Triacetoxybutanoyl bromide | 45 g, 97% | C(C)(=O)OC(C(=O)Br)C(COC(C)=O)OC(C)=O | C10H13BrO7
